data/oMe_Silver.jsonl
{"reaction_id": "NR-227_1-c2ccc(C(F)(F)F)cc2_2-Cc2ccccc2","level": "hard","name": "Pomeranz-Fritsch Isoquinoline Synthesis","reactants_smiles": ["O=C(c2ccc(C(F)(F)F)cc2)c1ccccc1","NC(C(OCc2ccccc2)(OCc2ccccc2))c1ccccc1"],"products_smiles": ["C1=CC=CC2=C1C=C(c3ccccc3)N=C(c2ccc(C(F)(F)F)cc2)2"],"conditions": "acidic conditions","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(c2ccc(C(F)(F)F)cc2)=NC(c1ccccc1)C(OCc2ccccc2)(OCc2ccccc2)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by acid activation of the carbonyl, forming a stabilized carbinolamine intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(c2ccc(C(F)(F)F)cc2)=NC(c1ccccc1)C(=[O+]CC)","step_weight": 0,"rationale": "Protonation of the hydroxyl group enhances its leaving ability, allowing water elimination to form an iminium ion stabilized by conjugation with the aromatic ring."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1ccccc1)(c2ccc(C(F)(F)F)cc2)=NC(c1ccccc1)=C([O]CC)","step_weight": 0,"rationale": "Loss of a proton adjacent to the iminium generates an enamine, driven by increased conjugation and relief of positive charge."},{"step": 4,"type": "cyclization","subtype": "aromatic_electrophilic_substitution","intermediate_smiles": "C(=C1C2C=CC=C1)(c2ccc(C(F)(F)F)cc2)N=C(c1ccccc1)C2([O]CC)","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the electrophilic iminium carbon intramolecularly, favored by proximity and acid-promoted electrophilicity, forming the bicyclic framework."},{"step": 5,"type": "aromatization","subtype": "dehydration","intermediate_smiles": "C1=CC=CC3=C1C=C(C2=CC=CC=C2)N=C3(c2ccc(C(F)(F)F)cc2)","step_weight": 0,"rationale": "Dehydration restores full aromaticity in the heterocyclic ring, a thermodynamically favorable step under acidic, dehydrating conditions."}],"description": "Under acidic conditions, the amine condenses with the carbonyl to form an iminium intermediate, which undergoes dehydration and rearrangement. Subsequent intramolecular electrophilic aromatic substitution closes the isoquinoline ring, followed by dehydration-driven aromatization to yield the heteroaromatic product."}
{"reaction_id": "NR-313_1-Cl_2-O_3-OC(F)(F)F_4-C(C)(C)C_5-N(=O)=O","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(Cl)c(O)c(OC(F)(F)F)c(C(C)(C)C)c(N(=O)=O)c1I"],"products_smiles": ["c1(Cl)c(O)c(OC(F)(F)F)c(C(C)(C)C)c(N(=O)=O)c1c2c(Cl)c(O)c(OC(F)(F)F)c(C(C)(C)C)c2(N(=O)=O)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(Cl)c(O)c(OC(F)(F)F)c(C(C)(C)C)c(N(=O)=O)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(Cl)c(O)c(OC(F)(F)F)c(C(C)(C)C)c(N(=O)=O)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(Cl)c(O)c(OC(F)(F)F)c(C(C)(C)C)c(N(=O)=O)c1[Cu](I)c2c(Cl)c(O)c(OC(F)(F)F)c(C(C)(C)C)c2(N(=O)=O)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(Cl)c(O)c(OC(F)(F)F)c(C(C)(C)C)c(N(=O)=O)c1c2c(Cl)c(O)c(OC(F)(F)F)c(C(C)(C)C)c2(N(=O)=O)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
